US06903085B1
Step iii: (R) N-[1-[1-(4-bromophenyl)ethyl]-4-piperidinyl]-3-(2-pyridinyl)-1,2,4-oxadiazole-5-propanamide
Prepared following a method as hereinbefore described using (R)-1-[1-(4-bromophenyl)ethyl]-4-piperidinamine (449 mg), 3-(2-pyridinyl)-1,2,4-oxadiazole-5-propanoic acid (0.31 g), 1-hydroxybenzotriazole (0.20 g), 4-(N,N-dimethylamino)-pyridine (0.13 g) and 1-ethyl-3-[3-(dimethylamino)-propyl]carbodiimide hydrochloride (0.30 g) to give the title compound (40 mg). m.p. 153-155° C.

reactant | (R)-1-[1-(4-bromophenyl)ethyl]-4-piperidinamine | 449 mg | BrC1=CC=C(C=C1)[C@@H](C)N1CCC(CC1)N | C13H19BrN2
reactant | 3-(2-pyridinyl)-1,2,4-oxadiazole-5-propanoic acid | 0.31 g | N1=C(C=CC=C1)C1=NOC(=N1)CCC(=O)O | C10H9N3O3
reactant | 1-hydroxybenzotriazole | 0.20 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-[3-(dimethylamino)-propyl]carbodiimide hydrochloride | 0.30 g | Cl.C(C)N=C=NCCCN(C)C
catalyst | 4-(N,N-dimethylamino)-pyridine | 0.13 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | N-[1-[1-(4-bromophenyl)ethyl]-4-piperidinyl]-3-(2-pyridinyl)-1,2,4-oxadiazole-5-propanamide | 40 mg | BrC1=CC=C(C=C1)C(C)N1CCC(CC1)NC(CCC1=NC(=NO1)C1=NC=CC=C1)=O | C23H26BrN5O2
